US07989449B2
(4RS,5RS)-4-(4-Methoxy-phenyl)-5-methyl-4-(3-pyrimidin-5-yl-phenyl)-4,5-dihydro-oxazol-2-ylamine
A dried pressure tube was charged with (4RS,5RS)-4-(3-bromo-phenyl)-4-(4-methoxy-phenyl)-5-methyl-4,5-dihydro-oxazol-2-ylamine (Building Block AP, (64 mg, 0.2 mmol), pyrimidine-5-boronic acid (25 mg, 0.2 mmol), triphenylphosphine (10 mg, 0.04 mmol), 2 N sodium carbonate solution (0.4 mL), and 1,2-dimethoxyethane (2 mL). The mixture was purged with argon before palladium(II)acetate (4 mg, 0.018 mmol) was added. The sealed pressure tube was heated at 100° C. for 60 hours. The incomplete reaction was stopped, the reaction mixture was cooled and evaporated under reduced pressure. The residue was directly chromatographed on silica gel using a gradient of dichloromethane/methanol=100/0 to 85/15 as the eluent. The mixture of the diastereomeric racemates was chromatographed on a preparative silica gel LC-plate using a 9:1-mixture of dichloromethane/methanol as the eluent. There were obtained 2 fractions of the desired product: 5 mg of a 9:1-mixture of diastereomeric racemates (example 169) [Mass (calculated) C21H20N4O2 [360]; (found) [M+H]+=361 and 3 mg of a 6:4-mixture of diastereomeric racemates (example 170) [Mass (calculated) C21H20N4O2 [360]; (found) [M+H]+=361

reactant | (4RS,5RS)-4-(3-bromo-phenyl)-4-(4-methoxy-phenyl)-5-methyl-4,5-dihydro-oxazol-2-ylamine | BrC=1C=C(C=CC1)C1(N=C(OC1C)N)C1=CC=C(C=C1)OC | C17H17BrN2O2
reactant | pyrimidine-5-boronic acid | 0.2 mmol, 64 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | triphenylphosphine | 0.04 mmol, 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2 N, 0.4 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II)acetate | 0.018 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
product | (4RS,5RS)-4-(4-Methoxy-phenyl)-5-methyl-4-(3-pyrimidin-5-yl-phenyl)-4,5-dihydro-oxazol-2-ylamine | COC1=CC=C(C=C1)C1(N=C(OC1C)N)C1=CC(=CC=C1)C=1C=NC=NC1 | C21H20N4O2
